US08466169B2
18b) 1-[3-Acetyl-5-(pentafluorosulfanyl)phenyl]pyrrolidine-2,5-dione
1-[3-Amino-5-(pentafluorosulfanyl)phenyl]ethanone (200 mg) was mixed with succinic acid (90 mg) in a flask, and then polyphosphoric acid (10 ml) was added. The mixture was heated to 130° C. for 8 h while stirring and, after leaving to stand overnight, further succinic acid (50 mg) was added and the mixture was heated to 130° C. for a further 4 h. After cooling, the mixture was stirred into ice-water and the aqueous solution was extracted five times with ethyl acetate. The combined extracts were washed with saturated sodium hydrogencarbonate solution, dried over magnesium sulfate, filtered and concentrated. The residue was purified by means of preparative HPLC. The product-containing fractions were combined, freed of the acetonitrile, admixed with saturated sodium hydrogencarbonate solution and extracted three times with ethyl acetate. The combined extracts were dried over magnesium sulfate, filtered and concentrated. 42 mg of the desired compound were obtained.

reactant | 1-[3-Amino-5-(pentafluorosulfanyl)phenyl]ethanone | 200 mg | NC=1C=C(C=C(C1)S(F)(F)(F)(F)F)C(C)=O | C8H8F5NOS
reactant | succinic acid | 90 mg | C(CCC(=O)O)(=O)O | C4H6O4
reactant | succinic acid | 50 mg | C(CCC(=O)O)(=O)O | C4H6O4
product | 1-[3-Acetyl-5-(pentafluorosulfanyl)phenyl]pyrrolidine-2,5-dione | 42 mg | C(C)(=O)C=1C=C(C=C(C1)S(F)(F)(F)(F)F)N1C(CCC1=O)=O | C12H10F5NO3S
